US09290511B2
i) [1-(2-chloro-5-phenyl-thieno[2,3-d]pyrimidin-4-yl)-4-piperidyl]methanol
4-Piperidinemethanol (987 mg, 8.57 mmol) was added to a stirred suspension of 2,4-dichloro-5-phenyl-thieno[2,3-d]pyrimidine (2 g, 7.14 mmol) and triethylamine (2.18 ml, 15.7 mmol) in dry ethanol (ml) at room temperature. Reaction was warmed to 40° C. and the resulting solution stirred for ˜2 h. Reaction was allowed to cool to room temperature and poured onto ice/water (50 ml). The resulting suspension was filtered and the solid dried in a vacuum oven at 40° C. The desired compound was obtained as a pale yellow solid (2.4 g, 93%). LCMS: (M+1) 360, RT=4.69 min.

reactant | 4-Piperidinemethanol | 8.57 mmol, 987 mg | N1CCC(CC1)CO | C6H13NO
reactant | 2,4-dichloro-5-phenyl-thieno[2,3-d]pyrimidine | 7.14 mmol, 2 g | ClC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)Cl | C12H6Cl2N2S
reactant | triethylamine | 15.7 mmol, 2.18 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | [1-(2-chloro-5-phenyl-thieno[2,3-d]pyrimidin-4-yl)-4-piperidyl]methanol | ClC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)N2CCC(CC2)CO | C18H18ClN3OS
